US08106064B2
4-Chloro-2,6-dimethoxy-pyrimidine:
In a 250 mL round bottom flask, 2,4,6-trichloro-pyrimidine (11.41 g, 62.2 mmol) was dissolved in 140 mL MeOH. The flask was cooled to 0° C. NaOMe (25% in MeOH, 28.44 mL, 124.4 mmol) was added to the flask dropwise (in 30 minutes). The reaction was stirred at 0° C. for 2 hours, then was warmed up to room temperature for 1 hour. The reaction mixture was concentrated down. Ethyl acetate was added, followed by washing with water. The organic layer was concentrated down after drying over anhydrous sodium sulfate to give white solid (10.68 g, 98.4%). LC-MS shows 175.1 (M+1). 1H NMR (300 MHz, CDCl3): δ 6.52 (s, 1H), 4.0 (s, 6H); 13C NMR (300 MHz, CDCl3): δ 172.55, 164.96, 161.03, 99.94, 54.42, 53.76.

reactant | 2,4,6-trichloro-pyrimidine | 62.2 mmol, 11.41 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | NaOMe | 124.4 mmol, 28.44 mL | C[O-].[Na+]
reactant | MeOH | 140 mL | CO | CH4O
product | 4-Chloro-2,6-dimethoxy-pyrimidine | 10.68 g, 98.4% | ClC1=NC(=NC(=C1)OC)OC | C6H7ClN2O2
